US07745641B2
In a similar manner to Step 1 of Example 16, 3-fluorobenzoyl chloride (2.00 g, 12.6 mmol) was dissolved in dichloromethane (40 mL), and the solution was treated with cumylamine (1.99 mL, 13.9 mmol), triethylamine (2.63 mL, 18.9 mmol) and DMAP (154 mg, 1.26 mmol). The mixture was purified by slurry using diisopropylether to obtain 3-fluoro-N-(1-methyl-1-phenylethyl)benzamide (3.09 g, yield 95%).

reactant | 3-fluorobenzoyl chloride | 12.6 mmol, 2.00 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | cumylamine | 13.9 mmol, 1.99 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | triethylamine | 18.9 mmol, 2.63 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | DMAP | 1.26 mmol, 154 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-fluoro-N-(1-methyl-1-phenylethyl)benzamide | 3.09 g, yield 95% | FC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1 | C16H16FNO
